US03971797
A mixture of 0.01 moles of 5,5'-(dithiodimethylene) bis[3-hydroxy-4-hydroxymethyl-2-methylpyridine] and 100 ml. of benzaldehyde was saturated with hydrogen chloride gas at 0°-5° and then stirred at this temperature for 4 hours. At this time 800 ml. of ether were added and the resulting precipitate was separated by filtration. This solid was then added to a well stirred mixture of 200 ml. chloroform and 200 ml. of water containing 20 gm. of sodium carbonate. After 15 minutes the chloroform layer was removed, dried, and concentrated to give an oil which gradually solidified. This solid was filtered with the aid of a small amount of ether to give 5,5'-(dithiodimethylene)bis[8-methyl-2-phenyl-4H-m-dioxino[4,5-c]pyridine].

reactant | 5,5'-(dithiodimethylene) bis[3-hydroxy-4-hydroxymethyl-2-methylpyridine] | 0.01 moles | C(SSCC=1C(=C(C(=NC1)C)O)CO)C=1C(=C(C(=NC1)C)O)CO | C16H20N2O4S2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 5,5'-(dithiodimethylene)bis[8-methyl-2-phenyl-4H-m-dioxino[4,5-c]pyridine] | C(SSCC1=C2C(=C(N=C1)C)OC(OC2)C2=CC=CC=C2)C2=C1C(=C(N=C2)C)OC(OC1)C1=CC=CC=C1 | C30H28N2O4S2
